.SUBCKT 3input0x29_X2 A1 A2 A3 VDD VSS Y
MM5 Y A3 VSS VSS nmos_rvt w=92.00n l=16n nfin=4
MM4 n2 na1 Y VSS nmos_rvt w=92.00n l=16n nfin=4
MM3 n2 A2 VSS VSS nmos_rvt w=92.00n l=16n nfin=4
MM2 n1 A3 VDD VDD pmos_rvt w=92.00n l=16n nfin=4
MM1 n1 na1 Y VDD pmos_rvt w=92.00n l=16n nfin=4
MM0 n1 A2 Y VDD pmos_rvt w=92.00n l=16n nfin=4
MM7 na1 A1 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM6 na1 A1 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS
